US08222245B2
[7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]acetic acid
A mixture of ethyl [7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]acetate (Preparation 47) (43 mg, 0.09 mmol), aqueous sodium hydroxide (2M, 430 μL, 0.86 mmol) and ethanol (4.3 ml) was heated at 40° C. for 1 h. The reaction mixture was cooled to room temperature and concentrated. The residue was taken up in water, which was then acidified to pH 6 with acetic acid. The aqueous phase was extracted with EtOAc (2×20 ml) and the combined organic fractions concentrated to give a white solid, which was then triturated with EtOAc to give the title compound as a white solid (36 mg, 0.08 mmol). δH (d6DMSO, 400 MHz): 8.50 (1H, d), 8.41 (1H, dd), 7.85-7.80 (2H, m), 7.55 (1H, d), 7.32 (1H, d), 4.98 (1H, septet), 3.00-2.91 (6H, m), 2.75-2.66 (4H, m), 1.39 (6H, d); MS (ES−): C24H24N4O4 requires 432; found 431 [M−H]+.

reactant | ethyl [7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]acetate | 0.09 mmol, 43 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)OCC)C=C1 | C26H28N4O4
reactant | sodium hydroxide | 0.86 mmol, 2M, 430 μL | [OH-].[Na+]
solvent | ethanol | 4.3 ml | C(C)O | C2H6O
product | [7-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepin-3-yl]acetic acid | 0.08 mmol, 36 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC2=C(CCN(CC2)CC(=O)O)C=C1 | C24H24N4O4
